Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___
 
Chief Complaint:
sub-sternal chest pressure  
 
Major Surgical or Invasive Procedure:
Cardiac Cath
 
History of Present Illness:
___ yoF with HTN presents due to having substernal and left sided 
chest pressure (started around 10:30 a.m.)/pain relieved while 
at outside hospital (duration around ___ hours?). Pain was a 
___, dull ache. The pain began after her husband died a.m. of 
admission in the ICU. She felt no radiation of the symptoms, no 
SOB, no lightheadedness (until she rec'd nitro in the ED), no 
nausea, palpitations, no diaphoresis, but she did report that 
she flet she might faint "if I stood-up."  
.  
She denies PND, orthopnea, pedal edema or claudication symptoms. 
 
.  
At baseline she walks up 2 flights of stairs without any 
limitation.  
.  
At ___ she was noted to have a 1mm STE in lead V2 
and a troponin of 0.41. She was given ASA 325mg x1- which 
reduced that pain per pt. Then she was given 5mg IV, nitro x 2, 
started on heparin drip (within minutes of nitroglycerin her 
pain had resolved and had not returned). She was plavix loaded 
with 600mg x 1. Since the resolution of her pain she has 
performed minimal activity (transfer from wheelchair to bed) 
without any symptoms. No SOB other problems since.
  
In the ED at ___, initial vitals were T 98.0 HR 66 BP 133/81 
RR 18 O2 100% on 2L and transfered to the floor.

On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. She denies recent fevers, chills or 
rigors. She denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
.
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope. 
 
Past Medical History:
PAST MEDICAL HISTORY:  
no known heart disease  
Cardiac Risk Factors: + Dyslipidemia, but no HTN and no DM 
.  
Cardiac History: No hx of cadiac disease 
CABG: none  
Percutaneous coronary intervention: none  
Pacemaker/ICD: none  
.  
OTHER PAST MEDICAL HISTORY:  
osteoporosis  
Colon CA- s/p bowel resection for early stage CA, ___, last 
colonoscopy was ___ ago and was normal per pt
Torn groin ligament
Aneurusm in the Lt groin- s/p repair
s/p venous ligation x 2 in legs
Low back pain 
Vertigo

 
Social History:
___
Family History:
Pt has no fhx of early cardiac death. Mother died at ___. Father 
died at ___ from a stroke. Sister has had carotid stenosis and a 
stroke in her ___. One daughter has DM.
 
Physical Exam:
VS -  97.8, 112/73, 63, 16, 99% on 2L
Gen: W elderly aged female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa. No xanthalesma.  
Neck: Supple, JVP 10cm?, no LAD 
CV:  heart sounds are soft, RR, normal S1, S2. No m/r/g. No 
thrills, lifts. No S3 or S4, no carotid bruits, DP pulses 2+ 
Bilt.
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
.  
Pulses:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
.  

 
Pertinent Results:
MEDICAL DECISION MAKING  
EKG: NSR w/ rate 60, normal axis and intervals. Slight 0.5mm 
elevation of ST in V2. 
OSH EKG earlier on ___: same except scooped shaped 0.5mm ST in 
V2., no other ST T changes.  
.  
Addmission labs-
___ 06:10PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-50 BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 05:15PM   GLUCOSE-120* UREA N-15 CREAT-0.9 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-21* ANION GAP-20
___ 05:15PM   estGFR-Using this
___ 05:15PM   CK(CPK)-236*
___ 05:15PM   CK-MB-24* MB INDX-10.2*
___ 05:15PM   WBC-9.2 RBC-3.94* HGB-12.5 HCT-36.4 MCV-93 
MCH-31.7 MCHC-34.2 RDW-12.7
___ 05:15PM   NEUTS-76.4* LYMPHS-17.8* MONOS-4.7 EOS-0.7 
BASOS-0.5
___ 05:15PM   PLT COUNT-245
___ 05:15PM   ___ PTT-150* ___
___ 05:15PM BLOOD CK-MB-24* MB Indx-10.2*
___ 05:15PM BLOOD cTropnT-0.99*
___ 01:40AM BLOOD CK-MB-18* MB Indx-8.7* cTropnT-0.44*
___ 05:40AM BLOOD CK-MB-15* MB Indx-8.0* cTropnT-0.37*
___ 05:40AM BLOOD Triglyc-65 HDL-73 CHOL/HD-2.4 LDLcalc-86
.
Discharge labs-

___ 05:23AM BLOOD WBC-5.6 RBC-3.96* Hgb-12.3 Hct-36.4 
MCV-92 MCH-31.2 MCHC-33.9 RDW-13.1 Plt ___
___ 05:23AM BLOOD Plt ___
___ 05:23AM BLOOD Glucose-104 UreaN-10 Creat-0.7 Na-143 
K-4.3 Cl-111* HCO3-24 AnGap-12
___ 05:23AM BLOOD CK(CPK)-136
___ 07:00PM BLOOD CK-MB-12* MB Indx-7.4* cTropnT-0.26*
___ 05:23AM BLOOD CK-MB-9 cTropnT-0.16*
___ 05:40AM BLOOD CK-MB-15* MB Indx-8.0* cTropnT-0.37*
___ 05:23AM BLOOD Calcium-8.3* Phos-2.5* Mg-1.9
___ 05:40AM BLOOD Triglyc-65 HDL-73 CHOL/HD-2.4 LDLcalc-86
.
Studies
.EKG ___
Normal sinus rhythm, rate 60. Probable exchange of leads V2 and 
V3 electrodes. No diagnostic abnormality. No previous tracing 
available for comparison.  HR of 60
.
___ Cardiac cath report
COMMENTS:      
1.  Coronary angiography of this right dominant system revealed 
single 
vessel CAD with diffuse atherosclerosis and diffuse slow 
perfusion 
consistent with microvascular dysfunction.  The LMCA had a mild 
eccentric 25% plaque at its origin.  The LAD was a tapering 
vessel with 
a proximal-mid 40% stenosis at S1; a large D1 branch arose from 
the mid 
LAD.  The mid LAD had diffuse plaquing and delayed perfusion.  
The LCx 
had diffuse plaquing with an origin 40% stenosis and a proximal 
60% 
stenosis before a single major OM branch.  The ramus had a mild 
origin 
plaque with proximal tortuosity of the vessel.  The RCA was a 
large 
caliber vessel with mild diffuse plaquing.  The R-PDA and RPLs 
were 
tortuous vessels. 
2.  Entry hemodynamics revealed mildy elevated left sided 
filling 
pressures with LVEDP of 16 mm Hg.  Systemic arterial pressures 
were 
normal with aortic systolic pressure of 122 mm Hg. 
3.  Left ventriculography revealed 1+ mitral regurgitation with 
LVEF 45% 
and severe mid cavity hypokinesis with mild anterobasal and 
inferobasal 
hypokinesis and normal apical contraction.  The aortic knob was 
heavily 
calcicifed. 
  
FINAL DIAGNOSIS:     
1. One vessel coronary artery disease. 
2. Slow perfusion consistent with microvascular dysfunction. 
3. Moderate left ventricular systolic dysfunction in a 
non-anatomic 
pattern, consistent with Takotsubo syndrome. 
4. Mild left ventricular diastolic dysfunction. 
.
___
The left atrium is normal in size. The estimated right atrial 
pressure is ___. Left ventricular wall thicknesses and 
cavity size are normal. There is mild regional left ventricular 
systolic dysfunction with focal mild hypokinesis of all the 
mid-ventricular segments with preserved contraction of the basal 
and apical segments. The apex is heavily trabeculated. Overall 
left ventricular systolic function is mildly depressed (LVEF= 
45%). The estimated cardiac index is borderline low 
(2.0-2.5L/min/m2). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. There is no mitral valve prolapse. Mild 
(1+) mitral regurgitation is seen. The estimated pulmonary 
artery systolic pressure is normal. There is an anterior space 
which most likely represents a fat pad. 

IMPRESSION: Mild focal mid-ventricular left ventrcular 
hypokinesis in a non-coronary distribution. Mild mitral 
regurgitation.  
.
EKG ___
Sinus rhythm. Compared to the previous tracing non-specific ST-T 
wave changes 
are more prominent in the inferolateral leads and Q-T interval 
prolongation is 
now present. 
TRACING #2 
  
 
Read by: ___ 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
65 188 70 ___ -132 
.

 
Brief Hospital Course:
Patient is a ___ yoF w/ a h/o hypercholesterolemia presents with 
substernal chest pressure and elevated troponins which occured 
after having lost her husband earlier in the day. 
.  
Patient appeared to be having an ACS, however, patient had 
recently had severe stress and takotsubo syndrome was also a 
concern. Pt was concernig for ACS due to CE elevations- Trop 
peak at 0.99. CKMB peak of 18, and MBI peak of 8.7. Patients EKG 
changes are were limited on admission showing only one change in 
V2, and no prior sudies for comparison. Pain was releived with 
nitro which also made an acute coronary syndrome likely. 
Therefore, and patient was started on heparin, plavix load, 
asprirn 325mg, lopressor 12.5mg TID, parvastatin 80mg, and IV 
fluids for possible cath. Patinent then had a cardiac 
catheterizaion showing one vessel coronary artery disease, not 
amicable to intervention, slow perfusion consistent with 
microvascular dysfunction, and moderate left ventricular 
systolic dysfunction in a non-anatomic pattern, and mild left 
ventricular diastolic dysfunction. Patient also had an 
echocaridogram that was consistent with these findings, and the 
patient was diagnosed as having stree induced cardiomyopathy. 
Patient was continued on her home medications including the 
increased dose of statin and the new addition of metoprolol. Her 
cardiac enzymes treded down. Patient did not have any more 
episoded of chest pain and was evaluated by physical therapy and 
did not have any issues ambulating. Patinet is to follow up with 
her primary care doctor and cardiologist. ___ be a canidate for 
an ACE-I started as an out patient. 
.  
Rhythm: No arrythmias, SR while on telemetry during her stay.

Psych: given recent loss of husband will place a social work 
consult.  Pt may need treatment as out patient for grief.

 
Medications on Admission:
pravastatin 20mg daily  
MVI dialy  
Vit E 400 daily  
Fosamax 70mg q week  
Calcium +D 600mg
Meclizine PRN for vertigo
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
For your heart.
Disp:*30 Tablet(s)* Refills:*2*
2. Multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
3. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week: Take 
as instructed by pharmacy.  
4. Calcium 600 + D 600-400 mg-unit Tablet Sig: One (1) Tablet PO 
once a day.  
5. Pravastatin 20 mg Tablet Sig: Four (4) Tablet PO at bedtime.
Disp:*30 Tablet(s)* Refills:*2*
6. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day: For 
your heart and blood pressure.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*3*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary-
-Microvascular disease of the coronary arteries
-Stress induced cardiomyopathy
Secondary
-Hypercholesterolemia
-history of colon cancer
-osteoporosis

 
Discharge Condition:
hemodynamically stable, able to ambulate

 
Discharge Instructions:
You were admitted to the hospital due to chest pain. The blood 
vessels in your heart were examined with a cardiac catherizaion. 
You did not have any significant obstructions in your blood 
vessels of your heart. You did have mild changes in your blood 
small vessels but these were too small to place stents. Your 
stress caused stress induced cardiomyopathy as well.
.
You were started on aspirin, and was continued on pravastatin. 
You also started on Metoprolol for your heart disease. Please 
take your medications as perscibed.
 
You will need to follow up with your primary care doctor, to set 
up an echocardiogram of your heart in ___. Then you will see 
a cardiolgist for follow up on the echocardiogram results. We 
discussed this with your primary care doctor's office.

Please go to the ER or seek medical attenion if you experience 
chest pain, shortness of breath, palpitaions, fainting, or are 
otherwise concerned about your health.
 
Followup Instructions:
___